US06821992B1
N-[(3-Chloro-5-trifluoromethyl-2-pyridyl)methyl]-2-bromopropionamide
To a mixture of (3-chloro-5-trifluoromethyl-2-pyridyl)methylamine hydrochloride (1.0 g) in tetrahydrofuran (5 ml) and triethylamine (0.41 g) which had been stirred at room temperature for 30 minutes, was added a mixture of 2-bromopropionic acid (0.62 g) and carbonyldiimidazole (0.65 g) in tetrahydrofuran (5 ml) which had also been stirred at room temperature for 30 minutes. The combined mixture was stirred at room temperature for 12 hours and then the solvent was removed. The residue was partitioned between diethyl ether and water and the layers separated. The organic phase was dried (MgSO4) and the solvent removed to give the title product.

reactant | (3-chloro-5-trifluoromethyl-2-pyridyl)methylamine hydrochloride | 1.0 g | Cl.ClC=1C(=NC=C(C1)C(F)(F)F)CN
reactant | triethylamine | 0.41 g | C(C)N(CC)CC | C6H15N
reactant | 2-bromopropionic acid | 0.62 g | BrC(C(=O)O)C | C3H5BrO2
reactant | carbonyldiimidazole | 0.65 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-[(3-Chloro-5-trifluoromethyl-2-pyridyl)methyl]-2-bromopropionamide | ClC=1C(=NC=C(C1)C(F)(F)F)CNC(C(C)Br)=O | C10H9BrClF3N2O
